US07645771B2
Methyl 3-[({[2,4-bis(methyloxy)phenyl]methyl}amino)carbonyl]-4-chlorobenzoate (600 mg, 1.65 mmol) dissolved in 17 mL CH3OH was treated with 16.5 mL 1N LiOH at ambient temperature for 16 h. The reaction mixture was concentrated to dryness, partitioned between EtOAc and water, the aqueous phase isolated and the pH adjusted to 2 with 6N HCl. The resultant precipitate was cooled in an ice bath with stirring, filtered, and washed with water to give 3-[({[2,4-bis(methyloxy)phenyl]methyl}amino)carbonyl]-4-chlorobenzoic acid (533 mg, 1.52 mmol) as a white crystalline solid. 1H NMR (300 MHz, DMSO-D6) d ppm 8.96 (m, 1H), 8.29 (d, J=2.2 Hz, 1H), 8.00 (dd, J=8.4, 2.3 Hz, 1H), 7.65 (d, J=8.3 Hz, 1H), 7.09 (d, J=8.3 Hz, 1H), 6.55 (d, J=2.3 Hz, 1H), 6.50 (dd, J=8.3, 2.3 Hz, 1H), 4.35 (d, J=5.6 Hz, 1H), 3.79 (s, 3H), 3.73 (s, 3H). LCMS ES+ 349.88, 351.91 (M+H).

reactant | Methyl 3-[({[2,4-bis(methyloxy)phenyl]methyl}amino)carbonyl]-4-chlorobenzoate | 1.65 mmol, 600 mg | COC1=C(C=CC(=C1)OC)CNC(=O)C=1C=C(C(=O)OC)C=CC1Cl | C18H18ClNO5
reactant | LiOH | 1N, 16.5 mL | [Li+].[OH-]
reactant | HCl | 6N | Cl | ClH
solvent | CH3OH | 17 mL | CO | CH4O
product | 3-[({[2,4-bis(methyloxy)phenyl]methyl}amino)carbonyl]-4-chlorobenzoic acid | 1.52 mmol, 533 mg | COC1=C(C=CC(=C1)OC)CNC(=O)C=1C=C(C(=O)O)C=CC1Cl | C17H16ClNO5
